US04342870
A mixture of 4.8 parts of 3-(2-chloroethyl)-2,6-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one, 4 parts of 3-(4-piperidinyl)-1H-indole, 8.5 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone is stirred and refluxed overnight using a water-separator. The reaction mixture is cooled, water is added and the precipitated product is filtered off. It is dissolved in a mixture of trichloromethane and methanol (90:10 by volume). The solution is filtered over silica gel and the filtrate is evaporated. The residue is crystallized from 2-propanol, yielding 2.5 parts (31%) of 3-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-2,6-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one; mp. 224.9° C.

reactant | 3-(2-chloroethyl)-2,6-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | ClCCC1=C(N=C2N(C1=O)C(=CC=C2)C)C | C12H13ClN2O
reactant | 3-(4-piperidinyl)-1H-indole | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 3-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-2,6-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 31% | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCC1=C(N=C2N(C1=O)C(=CC=C2)C)C | C25H28N4O
